US08431575B2
4-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.50 mmol, 260 mg) was dissolved in 4.0 M HCl in dioxane and stirred for 45 min at room temperature. The solvent was evaporated, and the resultant solid was washed with ether and dried to provide 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-yloxy)-pyridazine dihydrochloride.

reactant | 4-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.50 mmol, 260 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CCCC | C31H39N3O4
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1CCNCC1)CCCC | InChI=1S/C26H31N3O2.2ClH/c1-2-3-9-25-24(18-26(29-28-25)31-23-14-16-27-17-15-23)21-10-12-22(13-11-21)30-19-20-7-5-4-6-8-20;;/h4-8,10-13,18,23,27H,2-3,9,14-17,19H2,1H3;2*1H
